US07732446B1
As described in example 1, 61 mg of [4-(1,3-dihydro-isoindole-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 59 mg (>100%) of (1-aminomethyl-6,8-dimethoxy-isoquinolin-4-yl)-(1,3-dihydro-isoindol-2-yl)-methanone hydrochloride. H1-NMR (DMSO): δ, 8.49 (s, 1H), 8.43 (br s, 3H), 7.42-7.15 (m, 4H), 6.85 (s, 1H), 6.74 (s, 1H), 4.97 (s, 2H), 4.70 (d, J=4.7 Hz, 2H), 4.49 (s, 2H), 3.99 (s, 3H), 3.82 (s, 3H); MS: APCI (M+H) calc'd for C21H21N3O3+H 364.4; found 364.2.

reactant | [4-(1,3-dihydro-isoindole-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 61 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)N1CC2=CC=CC=C2C1)=O | C26H29N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-aminomethyl-6,8-dimethoxy-isoquinolin-4-yl)-(1,3-dihydro-isoindol-2-yl)-methanone hydrochloride | 59 mg, >100% | Cl.NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)N1CC2=CC=CC=C2C1 | InChI=1S/C21H21N3O3.ClH/c1-26-15-7-16-17(10-23-18(9-22)20(16)19(8-15)27-2)21(25)24-11-13-5-3-4-6-14(13)12-24;/h3-8,10H,9,11-12,22H2,1-2H3;1H
